data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2321,2578,[CH3:16][NH:17][C:18](=[O:19])[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)=[N+:27]([CH3:28])[CH-:29][C:30](=[O:31])[O:32][CH3:33].[CH3:1][O:2][C:3]1([CH3:4])[C:5]#[C:6][C:7]([C:8]#[N:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3]1([CH3:4])[C:5]2=[C:6]([C:7]([C:8]#[N:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[CH:29]([C:30](=[O:31])[O:32][CH3:33])[N:27]([CH3:28])[C:20]2([C:18]([NH:17][CH3:16])=[O:19])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,28.747280597668137,-48.46428708780506
1968,2181,[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2.[O-:16][O+:17]=[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[O:16][O:17][C:18]2([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,34.12522022508305,-4.304259009363483
699,759,[CH3:11][NH:12][C:13](=[O:14])[N-:15][N+:16]([CH3:17])=[CH:18][C:19](=[O:20])[O:21][CH3:22].[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[CH:18]([C:19](=[O:20])[O:21][CH3:22])[N:16]([CH3:17])[N:15]3[C:13]([NH:12][CH3:11])=[O:14],water,298.15,16.911934576335458,-44.16042304895964
4796,5475,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C-:13]([CH3:14])[NH+:15]=[C:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([NH:10][CH3:9])=[O:12])([CH3:14])[NH:15][C:16]2([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,12.128542871431115,-15.228516030916634
2778,3088,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][CH:12]([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[C:24](=[O+:25][C-:26]([C:27]([CH3:28])=[O:29])[C:30](=[O:31])[NH:32][CH3:33])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([CH:12]([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]([C:22]([NH:21][CH3:20])=[O:23])([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[O:25][C:26]2([C:27]([CH3:28])=[O:29])[C:30](=[O:31])[NH:32][CH3:33],water,298.15,10.047476979136704,-64.1440224729754
1040,1135,[CH2:1]=[CH:2][C:3](=[O:4])[O:5][CH3:6].[CH3:7][C:8](=[O:9])[C:10]([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)=[N+:17]([CH3:18])[CH-:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[CH:2]([C:3](=[O:4])[O:5][CH3:6])[C:10]([C:8]([CH3:7])=[O:9])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[N:17]([CH3:18])[CH:19]1[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,10.818412190784205,-21.517746555936387
818,887,[CH3:13][O:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19]([CH3:20])[c:21](=[O:22])[o:23]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]1([C:15]([O:14][CH3:13])=[O:16])[NH:18][C:19]3([CH3:20])[C:21](=[O:22])[O:23]1,water,298.15,19.434286472363976,-22.12603114963464
4105,4698,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:15]=[N:16]1,water,298.15,29.414890846672343,-1.752684477032275
4276,4891,[CH3:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([C:17]([CH3:18])=[O:19])([C:20]([CH3:21])=[O:22])[N:14]([CH3:15])[CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,32.23011745833907,-9.141273312742443
1618,1788,[CH3:14][NH:15][C:16](=[O:17])[CH-:18][N+:19]([CH3:20])=[C:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][CH:2]1[C:3]#[C:4][C:5]([C:6]#[N:7])([C:8]#[N:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([C:6]#[N:7])([C:8]#[N:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:21]([CH3:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:19]([CH3:20])[CH:18]2[C:16]([NH:15][CH3:14])=[O:17],water,298.15,18.207134188360808,-59.88320315898172
990,1075,[CH3:16][N:17]=[O+:18][N-:19][C:20](=[O:21])[NH:22][CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[N:17]([CH3:16])[O:18][N:19]2[C:20](=[O:21])[NH:22][CH3:23],water,298.15,30.029367846044465,-45.83405687770811
